US04873255
Ethyl 2-chloro-3-[4-(2,5,6,7,8-pentamethylchroman-2-ylmethoxy)phenyl]propionate
A procedure similar to that described in Preparation 5 was repeated, except that 734 mg of 2-(4-aminophenoxymethyl)-2,5,6,7,8-pentamethylchroman (prepared as described in Preparation 32), 1 ml of concentrated aqueous hydrochloric acid, 190 mg of sodium nitrite, 1.2 ml of ethyl acrylate, 70 mg of cuprous oxide, 10 ml of acetone and 2 ml of water were reacted, to afford 390 mg of the title compound as a pale yellow oil.

reactant | 2-(4-aminophenoxymethyl)-2,5,6,7,8-pentamethylchroman | 734 mg | NC1=CC=C(OCC2(OC3=C(C(=C(C(=C3CC2)C)C)C)C)C)C=C1 | C21H27NO2
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | sodium nitrite | 190 mg | N(=O)[O-].[Na+]
reactant | ethyl acrylate | 1.2 ml | C(C=C)(=O)OCC | C5H8O2
solvent | water | 2 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | Ethyl 2-chloro-3-[4-(2,5,6,7,8-pentamethylchroman-2-ylmethoxy)phenyl]propionate | 390 mg | ClC(C(=O)OCC)CC1=CC=C(C=C1)OCC1(OC2=C(C(=C(C(=C2CC1)C)C)C)C)C | C26H33ClO4
